US04368069
2-(1-Cyclopentenyl)-N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]benzenesulfonamide
A mixture of 2-amino-4-methoxy-6-methylpyrimidine (0.45 g, 3.2 mmol), methylene chloride and DABCO (ca. 10 mg) was contacted with 2-(1-cyclopentenyl)benzenesulfonyl isocyanate in methylene chloride solution at ambient temperature. After approximately 20 minutes the product crystallized from the reaction mixture and was collected by filtration and rinsed with ether. In this manner, 0.35 g of product was obtained, m.p. 235°-236°. The infrared spectrum exhibited a carbonyl absorption at 1710 cm-1 indicating the title compound.

reactant | 2-amino-4-methoxy-6-methylpyrimidine | 3.2 mmol, 0.45 g | NC1=NC(=CC(=N1)OC)C | C6H9N3O
reactant | DABCO | ca. 10 mg | C1CN2CCN1CC2 | C6H12N2
reactant | 2-(1-cyclopentenyl)benzenesulfonyl isocyanate | C1(=CCCC1)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C12H11NO3S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(1-Cyclopentenyl)-N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]benzenesulfonamide | 0.35 g | C1(=CCCC1)C1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)C | C18H20N4O4S
